US05633279
A solution of 2-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy -7-methyl-3-oxoisobenzofuran-5-yl)acetaldehyde (10.3 g) and 2-(triphenyl-phosphoranylidene)-propionaldehyde (11.6 g) in toluene (250 ml) was refluxed for 7 hours. The solvent was removed under vacuum and the residue was chromatographed on silica gel, eluting with 9:1 hexane:ethyl acetate, to afford (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl -3-oxoisobenzofuran-5-yl)-2-methylbut-2-enaldehyde, mp 67°-68° C., (methylene chloride/hexane).

reactant | 2-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy -7-methyl-3-oxoisobenzofuran-5-yl)acetaldehyde | 10.3 g | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)CC=O | C16H20O7
reactant | 2-(triphenyl-phosphoranylidene)-propionaldehyde | 11.6 g | C1(=CC=CC=C1)P(=C(C=O)C)(C1=CC=CC=C1)C1=CC=CC=C1 | C21H19OP
solvent | toluene | 250 ml | C1(=CC=CC=C1)C | C7H8
product | (E)-4-(1,3-dihydro-6-methoxy-4-methoxyethoxymethoxy-7-methyl -3-oxoisobenzofuran-5-yl)-2-methylbut-2-enaldehyde | COC1=C(C(=C2C(OCC2=C1C)=O)OCOCCOC)C/C=C(/C=O)\C | C19H24O7
